US06653471B2
Preparation of 3,4,5,6-tetrahydro-3,5,10-triaza-benzo(e)azulene-1-carboxylic acid (3-fluro-phenyl)-amide
To a solution of 0.38 mL (4 mmol) of 3-fluoroaniline in 2 mL of methylene chloride under a nitrogen atmosphere is added dropwise 1.5 mL (3 mmol) of trimethyl aluminum (2M solution of toluene). This mixture is stirred at room temperature for 30 minutes. To this mixture is added a solution of 0.12 g (0.5 mmol) of 3,4,5,6-tetrahydro-3,5,10-triaza-benzo(e)azulene-1-carboxylic acid methyl ester dissolved in 8 mL of methylene chloride. The reaction mixture is heated to 40° C. for 24 hours; cooled to room temperature and quenched with 0.5 mL of saturated NaCl. After stirring for 30 minutes an additional 5 mL of methylene chloride and 2 grams of anhydrous sodium sulfate is added. The reaction mixture is filtered. The filtrate is evaporated and chromatographed on 10 grams of silica gel using 10/1/0.5 chloroform/methanol/ammonium hydroxide as the eluant. Appropriate fractions are combined and evaporated to 23 mg of 3,4,5,6-tetrahydro-3,5,10-triaza-benzo(e)azulene-1-carboxylic acid (3-fluoro-phenyl)-amide. 1H NMR (CD3OD) δ8.70 (m, 1H), 7.90 (m, 1H), 7.80 (m, 1H), 7.60 (s, 1H), 7.30 (m, 3H), 6.90 (m, 1H), 3.87 (s, 2H), 3.70 (s, 2H). Mass spectrum: m/e=323.2 (p+1). TLC (10/1/0.1 chloroform/methanol/ammonium hydroxide) Rf=0.3.

reactant | 3-fluoroaniline | 4 mmol, 0.38 mL | FC=1C=C(N)C=CC1 | C6H6FN
reactant | trimethyl aluminum | 3 mmol, 2M, 1.5 mL | C[Al](C)C
reactant | 3,4,5,6-tetrahydro-3,5,10-triaza-benzo(e)azulene-1-carboxylic acid methyl ester | 0.5 mmol, 0.12 g | COC(=O)C1=CNC=2CNCC3=C(C12)N=CC=C3 | C13H13N3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 3,4,5,6-tetrahydro-3,5,10-triaza-benzo(e)azulene-1-carboxylic acid (3-fluro-phenyl)-amide | FC=1C=C(C=CC1)NC(=O)C1=CNC=2CNCC3=C(C12)N=CC=C3 | C18H15FN4O
